US04618358
N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-aminomethylphosphonic acid (compound 16)
3.0 (5.9 mmoles) of diisopropyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-aminomethylphosphonate are refluxed for 16 hours in 100 ml of 20% hydrochloric acid. The solution is concentrated in vacuo, affording 2.3 g (92% of theory) of the title compound in the form of yellow crystals with a melting point of 148°-150° C.

reactant | diisopropyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-aminomethylphosphonate | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NCP(OC(C)C)(OC(C)C)=O | C20H23ClF3N2O6P
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-aminomethylphosphonic acid | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NCP(O)(O)=O | C14H11ClF3N2O6P
